US08124810B2
Preparation of 3-(3-bromo-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole (process step e)
At 0° C., 10 g (48 mmol) of 3-(2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole are added a little at a time to 120 ml of conc., sulfuric acid, and the mixture is stirred for about 30 minutes. 3.7 g (23 mmol) of bromine are then added dropwise, and the mixture is stirred at 0° C. for 2.5 hours. The mixture is then allowed to warm to room temperature over a period of about 45 minutes. A homogeneous solution is formed. For work-up, the reaction mixture is poured onto ice-water and extracted three times with methylene chloride. The organic phase is washed with sodium bicarbonate solution, dried with magnesium sulfate and concentrated. This gives 11.4 g of crude product which is used for the next step without further purification.

reactant | 3-(2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole | 48 mmol, 10 g | CC1=C(C(=CC=C1)SC)C1=NOCC1 | C11H13NOS
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | bromine | 23 mmol, 3.7 g | BrBr | Br2
product | 3-(3-bromo-2-methyl-6-methylthiophenyl)-4,5-dihydroisoxazole | BrC=1C(=C(C(=CC1)SC)C1=NOCC1)C | C11H12BrNOS
